US07696223B2
b) [(4-Cyano-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of [(4-bromo-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carbonyl)-amino]-acetic acid (130 mg, 0.32 mmole), tris(dibenzylideneacetone)dipalladium(0)(15 mg, 0.02 mmole), 1,1′-bis(diphenylphosphino)ferrocene (18 mg, 0.04 mmole), zinc cyanide (23 mg, 0.19 mmole) and zinc (3 mg, 0.04 mmole) in dimethylacetamide (640 μl) was stirred at 120° C. for 3 h before it was cooled to room temperature, partitioned between ethyl acetate and 1N NaOH (50 ml). The aqueous layer was acidified with 5 N HCl (10 ml) to pH=2, extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography on a C18 column with a gradient of water and acetonitrile in formic acid to give the title compound as a yellow solid (46 mg). MS: (+) m/z 355.22 (M+1), MS: (−) m/z 353.18 (M−1).

reactant | [(4-bromo-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carbonyl)-amino]-acetic acid | 0.32 mmole, 130 mg | BrC1=NC(=C(C2=C1SC(=N2)C2=CC=CC=C2)O)C(=O)NCC(=O)O | C15H10BrN3O4S
reactant | dimethylacetamide | 640 μl | CC(=O)N(C)C | C4H9NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.02 mmole, 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.04 mmole, 18 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | zinc cyanide | 0.19 mmole, 23 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc | 0.04 mmole, 3 mg | [Zn] | Zn
product | [(4-Cyano-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carbonyl)-amino]-acetic acid | 46 mg | C(#N)C1=NC(=C(C2=C1SC(=N2)C2=CC=CC=C2)O)C(=O)NCC(=O)O | C16H10N4O4S
